US09422331B2
A rt suspension of tert-butyl(S)-1-((3S,4S)-5-acetyl-7-cyano-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (26.8 mg, 42.9 μmol) in 4 M HCl in dioxane (214 μl) was stirred at rt for 2 h. The reaction was diluted with Et2O and the solids were collected by vacuum filtration, taken up in MeCN—H2O, and lyophilized to provide (S)-N-((3S,4S)-5-acetyl-7-cyano-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide dihydrochloride (21.9 mg, 85%) as a white solid. MS m/z 525 (MH)+.

reactant | tert-butyl(S)-1-((3S,4S)-5-acetyl-7-cyano-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 42.9 μmol, 26.8 mg | C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)CC1=C(C=NC3=CC=CC=C13)C1CC1)C=CC(=C2)C#N | C35H40N6O5
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 214 μl | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | (S)-N-((3S,4S)-5-acetyl-7-cyano-1-((3-cyclopropylquinolin-4-yl)methyl)-4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide dihydrochloride | 21.9 mg, 85% | Cl.Cl.C(C)(=O)N1C2=C(N(C([C@H]([C@@H]1C)NC([C@H](C)NC)=O)=O)CC1=C(C=NC3=CC=CC=C13)C1CC1)C=CC(=C2)C#N | InChI=1S/C30H32N6O3.2ClH/c1-17(32-4)29(38)34-28-18(2)36(19(3)37)27-13-20(14-31)9-12-26(27)35(30(28)39)16-24-22-7-5-6-8-25(22)33-15-23(24)21-10-11-21;;/h5-9,12-13,15,17-18,21,28,32H,10-11,16H2,1-4H3,(H,34,38);2*1H/t17-,18-,28-;;/m0../s1
